US04886803
N-Methyl-N-(4,6-dimethyl-2-pyridyl)-1-[2-(4-(3,4-dimethoxybenzoyl)-1-piperazinyl)ethyl]benzimidazole-2-carboxamide
In an argon atmosphere, N-methyl-N-(4,6-dimethyl-2-pyridyl)benzimidazole-2-carboxamide (2.00 g) was dissolved in DMSO (15 ml), and 60% sodium hydride (0.33 g) was added and stirred at room temperature for 1 hr. A solution (7 ml) of 2-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]ethyl chloride (2.20 g) in DMSO was added dropwise and allowed to react overnight at room temperature under agitation. The reaction solution was added to an aqueous solution of ammonium chloride and extracted with chloroform, the chloroform layer was dried over Na2SO4, and the solvent was distilled off. Purification of the residue by column chromatography gave the title compound (3.10 g) as amorphous solid.

reactant | N-methyl-N-(4,6-dimethyl-2-pyridyl)benzimidazole-2-carboxamide | 2.00 g | CN(C(=O)C=1NC2=C(N1)C=CC=C2)C2=NC(=CC(=C2)C)C | C16H16N4O
reactant | sodium hydride | 0.33 g | [H-].[Na+]
reactant | 2-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]ethyl chloride | 7 ml, 2.20 g | COC=1C=C(C(=O)N2CCN(CC2)CCCl)C=CC1OC | C15H21ClN2O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | N-Methyl-N-(4,6-dimethyl-2-pyridyl)-1-[2-(4-(3,4-dimethoxybenzoyl)-1-piperazinyl)ethyl]benzimidazole-2-carboxamide | 3.10 g | CN(C(=O)C1=NC2=C(N1CCN1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O)C=CC=C2)C2=NC(=CC(=C2)C)C | C31H36N6O4
